US07973051B2
i) 5-Iodo-4-phenyl-thiazol-2-ylamine
4-Phenyl-thiazol-2-ylamine (0.881 g, 5.00 mmol) was dissolved in 10 mL of CH2Cl2 and 2 mL of acetic acid and treated at 0° C. with iodine monochloride (5.25 mL of 1M in CH2Cl2, 1.05 eq.) and kept at this temperature for 0.5 h. Pouring onto crashed ice/Na2CO3, twofold extraction with ethyl acetate, washing with water and brine, drying over sodium sulfate, and evaporation to dryness produced 1.60 g of the title compound as dark brown gum, sufficiently pure to be used for the next step.

reactant | 4-Phenyl-thiazol-2-ylamine | 5.00 mmol, 0.881 g | C1(=CC=CC=C1)C=1N=C(SC1)N | C9H8N2S
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | iodine monochloride | 1M, 5.25 mL, 1.05 eq. | ICl | ClI
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Iodo-4-phenyl-thiazol-2-ylamine | 1.60 g | IC1=C(N=C(S1)N)C1=CC=CC=C1 | C9H7IN2S
